US05102757
In a 200 ml Erlenmeyer flask were placed 5.0 g (26.5 mmols) of 2,3-diaminonaphthoquinone and 75 ml of acetic acid/water (1/1), then a solution composed of 5.9 g (39.8 mmols) of 1-phenyl-1,2-propanedione and 25 ml of acetic acid/water (1/1) was added dropwise to the mixture under ice-cooling over a period of about 10 minutes, and after stirring the mixture for 5 minutes, yellow precipitates formed were collected by filtration and washed with water. The precipitates were dissolved in methylene chloride; and, after purifying the solution by silica gel short column (eluted by methylene chloride), the product obtained was recrystallized from methylene chloride-methanol to provide 6.22 g (yield 78%) of 2-methyl-3-phenylnaphthoquinone as a yellow powder. Melting point 235°-236° C.

reactant | 2,3-diaminonaphthoquinone | 26.5 mmols, 5.0 g | NC=1C(C2=CC=CC=C2C(C1N)=O)=O | C10H8N2O2
reactant | 1-phenyl-1,2-propanedione | 39.8 mmols, 5.9 g | C1(=CC=CC=C1)C(C(C)=O)=O | C9H8O2
solvent | acetic acid water | 25 ml | C(C)(=O)O.O
solvent | acetic acid water | 75 ml | C(C)(=O)O.O
product | 2-methyl-3-phenylnaphthoquinone | 6.22 g, yield 78% | CC=1C(C2=CC=CC=C2C(C1C1=CC=CC=C1)=O)=O | C17H12O2
